US05047554
Methyl 5-formyl-2-thiophenecarboxylate oxime
A solution of methyl 5-formyl-2-thiophenecarboxylate, prepared according to Example 10, (6.26 g, 36.78 mmoles), hydroxylamine hydrochloride (3.07 g, 44.14 mmoles) and pyridine (3.49 g, 44.14 mmoles) in 200 ml of ethanol was refluxed for 2 hours. The ethanol was removed in vacuo, the residue dissolved in ether and washed with water. The organic layer was dried (magnesium sulfate) and evaporated to a yellow solid. Trituration with a small amount of ether furnished the title compound as a white solid (4.93 g, 72%), m.p. 164°-7° C. Oxime Z:E ratio:(82:18).

reactant | methyl 5-formyl-2-thiophenecarboxylate | C(=O)C1=CC=C(S1)C(=O)OC | C7H6O3S
reactant | hydroxylamine hydrochloride | 36.78 mmoles, 6.26 g | Cl.NO
reactant | pyridine | 44.14 mmoles, 3.49 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Methyl 5-formyl-2-thiophenecarboxylate oxime | 4.93 g, 72% | C(=O)C1=CC=C(S1)C(OC)=NO | C7H7NO3S
